US03983135
To a stirring suspension of 7.92 g (0.07 mole) of creatinine in 50 ml of dry DMF is added 9.08 g (0.05 mole) of 3-chloro-2,6-dimethylphenyl isocyanate. After stirring for four hours, the reaction mixture is filtered through a diatomaceous earth pad to remove unreacted creatinine. Addition of a large excess of ice water precipitates a gummy semisolid mass which eventually crystallizes. After blowing the product to dry it for about eighteen hours, it is recrystallized from acetone-ether. Finally the product is taken up in dichloromethane and the resulting solution is filtered through diatomaceous earth. Concentration and dilution with ether gives pure product, 1-(3-chloro-2,6-dimethylphenyl)-3-(1-methyl-4-oxo-2-imidazolidinylidene) urea; m.p. 140°-141.5°C.

reactant | creatinine | 0.07 mole, 7.92 g | CN1CC(=O)N=C1N | C4H7N3O
reactant | 3-chloro-2,6-dimethylphenyl isocyanate | 0.05 mole, 9.08 g | ClC=1C(=C(C(=CC1)C)N=C=O)C | C9H8ClNO
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | 1-(3-chloro-2,6-dimethylphenyl)-3-(1-methyl-4-oxo-2-imidazolidinylidene) urea | ClC=1C(=C(C(=CC1)C)NC(=O)N=C1N(CC(N1)=O)C)C | C13H15ClN4O2
